US08067595B2
Synthesis of N-ethoxyethyl-N-methylbenzylamine (BnEO)
Process 1) NaH (washed with hexane in advance, 8.78 g, 0.305×1.2 mol) was added to a dry THF (300 mL) solution of N-methylbenzylamine (39 mL, 0.305 mol) under an argon atmosphere at room temperature. After stirring at room temperature for 30 minutes, a dry THF (100 mL) solution of bromoethyl ethyl ether (51 mL, 0.305×1.5 mol) was added dropwise, and further heated under reflux under an argon atmosphere for 24 hours. After cooling to room temperature, water (350 mL) was carefully added for dissolution of insoluble materials, followed by adding ethyl acetate (350 mL). The organic layer was separated, further washed with brine (200 mL) and then concentrated to dryness. Since insoluble materials precipitated in the residual fraction, they were filtered off and washed with ethyl acetate, and the filtrate was again concentrated to dryness. The residue was purified by vacuum distillation (fraction at 1.0 to 1.1 kpa and 95° C. to 110° C. collected), and BnEO (49.73 g, 0.257 mol, 84%) was obtained as a colorless transparent liquid.

reactant | NaH | 1.2 mol, 8.78 g | [H-].[Na+]
reactant | THF | 300 mL | C1CCOC1 | C4H8O
reactant | N-methylbenzylamine | 0.305 mol, 39 mL | CNCC1=CC=CC=C1 | C8H11N
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | bromoethyl ethyl ether | 1.5 mol, 51 mL | C(C)OCCBr | C4H9BrO
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 350 mL | O | H2O
product | N-ethoxyethyl-N-methylbenzylamine | C(C)OCCN(C)CC1=CC=CC=C1 | C12H19NO
